US08609696B2
To a mixture of 1-(biphenyl-4-ylcarbonyl)piperidine-4-carboxylic acid (0.10 g, 0.32 mmol) and 3,4-diaminopyridine (35 mg, 0.32 mmol) in pyridine (1 mL) is added triphenyl phosphate (0.10 mL, 0.38 mmol). The mixture is heated under microwave irradiation at 120° C. for 50 mins. Purification by preparative HPLC gives 34 mg of biphenyl-4-yl[4-(1H-imidazo[4,5-c]pyridin-2-yl)piperidin-1-yl]methanone.

reactant | 1-(biphenyl-4-ylcarbonyl)piperidine-4-carboxylic acid | 0.32 mmol, 0.10 g | C1(=CC=C(C=C1)C(=O)N1CCC(CC1)C(=O)O)C1=CC=CC=C1 | C19H19NO3
reactant | 3,4-diaminopyridine | 0.32 mmol, 35 mg | NC=1C=NC=CC1N | C5H7N3
reactant | triphenyl phosphate | 0.38 mmol, 0.10 mL | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O4P
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | biphenyl-4-yl[4-(1H-imidazo[4,5-c]pyridin-2-yl)piperidin-1-yl]methanone | 34 mg | C1(=CC=C(C=C1)C(=O)N1CCC(CC1)C=1NC2=C(C=NC=C2)N1)C1=CC=CC=C1 | C24H22N4O
